US04737516
(F) 3-Chloro-7-methylbenzo[b]thiophene
10 g of 2,3-Dichloro-7-methylbenzo[b]thiophene are dissolved in 200 ml ether and 28.8 ml of a 1.6M solution of butyllithium in hexane added dropwise at 0°. After one hour the mixture is poured into dilute aqueous HCl, the organic phase separated, washed, dried and concentrated on a rotary evaporator. The raw title product thus obtained is reacted directed further (B.p.=60°-62°/0.13 Pascal. 3-Chloro-4-methylbenzo[b]thiophene may be prepared analogously.

reactant | 2,3-Dichloro-7-methylbenzo[b]thiophene | 10 g | ClC1=C(C2=C(S1)C(=CC=C2)C)Cl | C9H6Cl2S
reactant | butyllithium | C(CCC)[Li]
reactant | HCl | Cl | ClH
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 3-Chloro-7-methylbenzo[b]thiophene | ClC=1C2=C(SC1)C(=CC=C2)C | C9H7ClS
